US08710223B2
Synthesis of 4-(2,2,6,6-tetramethylpiperidin-4-ylamino)-2-(4-cyclopropyl-2-fluoro-5-(1H-tetrazol-1-yl)phenylamino)pyrimidine-5-Carboxamide
A mixture of 4-(2,2,6,6-tetramethylpiperidin-4-ylamino)-2-chloropyrimidine-5-carboxamide (178 mg, 0.570 mmol, 1 equiv), 4-cyclopropyl-2-fluoro-5-(1H-tetrazol-1-yl)benzenamine (150 mg, 0.684 mmol, 1.2 equiv), and PTSA monohydrate (230 mg, 1.20 mmol, 2.1 equiv) in IPA (6 mL) were heated to 100° C. overnight giving a precipitate. The precipitate was collected by vacuum filtration and rinsed with IPA. The solid was taken in EtOAc then adjusted to ca. pH 12-14 with 1N NaOH. The aqueous and organic layers were partitioned. The aqueous layer was extracted with EtOAc (2×150 mL). The combined organics were washed with 1N NaOH (1×150 mL), dried (Na2SO4), filtered, and concentrated to give the desired product (128 mg, 50%) as a solid.

reactant | 4-(2,2,6,6-tetramethylpiperidin-4-ylamino)-2-chloropyrimidine-5-carboxamide | 0.570 mmol, 178 mg, 1 equiv | CC1(NC(CC(C1)NC1=NC(=NC=C1C(=O)N)Cl)(C)C)C | C14H22ClN5O
reactant | 4-cyclopropyl-2-fluoro-5-(1H-tetrazol-1-yl)benzenamine | 0.684 mmol, 150 mg, 1.2 equiv | C1(CC1)C1=CC(=C(C=C1N1N=NN=C1)N)F | C10H10FN5
solvent | IPA | 6 mL | CC(C)O | C3H8O
product | 4-(2,2,6,6-tetramethylpiperidin-4-ylamino)-2-(4-cyclopropyl-2-fluoro-5-(1H-tetrazol-1-yl)phenylamino)pyrimidine-5-Carboxamide | 128 mg, 50% | CC1(NC(CC(C1)NC1=NC(=NC=C1C(=O)N)NC1=C(C=C(C(=C1)N1N=NN=C1)C1CC1)F)(C)C)C | C24H31FN10O
